US04544670
Step II. 1-(5-methyl-3-phenyl-4-isoxazoloyl)3-ethylguanidine
A mixture of 8.80 g of an aqueous sodium hydroxide solution (50%), ethylguanidine sulfate (14.98 g), and 100 ml of acetone, are stirred for 21/2 hrs at RT. The resulting mixture is then treated with anhydrous sodium sulfate (6.0 g) and stirring is continued for 1 hr. A solution of 5-methyl-3-phenyl-4-isoxazoloyl chloride (11.08 g) in 50 ml acetone is added dropwise and the resulting mixture is stirred overnight at RT. The reaction mixture is filtered, the filtrate diluted with 100 ml of saturated aqueous sodium bicarbonate and the acetone evaporated in vacuo. The aqueous residue is diluted with 100 ml H2O and extracted with two 100 ml portions of methylene chloride. The combined organic extract is dried, filtered and concentrated in vacuo. The residue is acidified with ethereal hydrochloric acid and evaporated in vacuo. The residue is stirred with 200 ml of diethyl ether, the solid collected and washed with diethyl ether. Recrystallization from acetonitrile affords 11.7 g of white crystalline product, M.P. 215° C.

reactant | sodium hydroxide | 8.80 g | [OH-].[Na+]
reactant | ethylguanidine sulfate | 14.98 g | S(=O)(=O)(O)O.C(C)NC(=N)N
reactant | sodium sulfate | 6.0 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-methyl-3-phenyl-4-isoxazoloyl chloride | 11.08 g | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)Cl | C11H8ClNO2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-(5-methyl-3-phenyl-4-isoxazoloyl)3-ethylguanidine | 11.7 g | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NC(=N)NCC | C14H16N4O2
